US04946870
0.06 g of miconazole nitrate are dissolved in 4.5 g of ethyl alcohol and 0.44 g of water, and mixed with 5.0 g of 2% chitosonium pyrrolidone carboxylate in 90:10 water/alcohol, giving a clear, colorless solution (0.6% miconazole). This lotion is useful in the treatment of a variety of topical fungal infections, including Athlete's foot.

reactant | miconazole nitrate | 0.06 g | C1=CC(=C(C=C1Cl)Cl)COC(CN2C=CN=C2)C=3C=CC(=CC3Cl)Cl.[N+](=O)(O)[O-]
reactant | pyrrolidone carboxylate | 5.0 g | N1(C(CCC1)=O)C(=O)[O-]
solvent | ethyl alcohol | 4.5 g | C(C)O | C2H6O
solvent | water | 0.44 g | O | H2O
product | miconazole | 0.6% | C1=CC(=C(C=C1Cl)Cl)COC(CN2C=CN=C2)C=3C=CC(=CC3Cl)Cl | C18H14Cl4N2O
